.lib ${pdk_root}/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_${corner}
.include submission.spice
.temp ${temperature}
VD d 0 1.0
VG g 0 0.7
VS s 0 0
VB b 0 0
XDUT d g s b mos_operating_point
.control
op
let drain_current=abs(i(VD))
echo drain_current $$&drain_current > results.data
quit
.endc
.end
